US03947408
Preparation of 7-Benzyloxy-1,2,3,5,10,11a-hexahydro-10-methyl- 11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one
The above compound is obtained when 7-benzyloxy- 1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin- 5,11(10H)-dione (prepared from proline and 5-benzyloxy-N-methylisatoic anhydride by the procedure of Example 1) is treated with 1 M borane in tetrahydrofuran by the procedures of Example 1.

reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 5-benzyloxy-N-methylisatoic anhydride | C(C1=CC=CC=C1)OC1=CC=C2C(C(=O)OC(N2C)=O)=C1 | C16H13NO4
reactant | borane | 1 M | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Benzyloxy-1,2,3,5,10,11a-hexahydro-10-methyl- 11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one | C(C1=CC=CC=C1)OC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C20H22N2O2
